US04346087
Into an apparatus similar to that in Example 1, were charged 310.1 g (1 mole) of N-(9-octadecenyl)ethylenediamine and 158.2 g (1 mole) of butyl 3-formylpropionate. At 150° C. and under a reduced pressure of 50 mmHg, 18 g of water and 74 g of butanol were distilled off to obtain 4-(9-octadecenyl)-2,3,6,7-tetrahydro-1,4-diazocin-5-one.

reactant | N-(9-octadecenyl)ethylenediamine | 1 mole, 310.1 g | C(CCCCCCCC=CCCCCCCCC)NCCN | C20H42N2
reactant | butyl 3-formylpropionate | 1 mole, 158.2 g | C(=O)CCC(=O)OCCCC | C8H14O3
product | 4-(9-octadecenyl)-2,3,6,7-tetrahydro-1,4-diazocin-5-one | C(CCCCCCCC=CCCCCCCCC)N1CCN=CCCC1=O | C24H44N2O
